US06352993B1
5,6-dimethyl-2-(3-trifluoromethylphenylmethyl)amino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 3-trifluoromethylbenzylamine(0.30 ml, 2.61 mmol) and triethylamine(0.36 ml, 2.59 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.74 mmol) in dimethylformamide, 630 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | 3-trifluoromethylbenzylamine | 2.61 mmol, 0.30 ml | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(3-trifluoromethylphenylmethyl)amino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 630 mg, Yield: 78.2% | Cl.CC=1C(=NC(=NC1C)NCC1=CC(=CC=C1)C(F)(F)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C24H25F3N4.ClH/c1-15-16(2)29-23(28-14-18-7-6-9-20(13-18)24(25,26)27)30-22(15)31-12-11-19-8-4-5-10-21(19)17(31)3;/h4-10,13,17H,11-12,14H2,1-3H3,(H,28,29,30);1H
